* Arm A oscillator 7: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/claude/w/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/claude/w/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm A oscillator 7: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 20.6670
Cg0 i1_A 0 9.319220e-17
Cg1 nand_Y 0 9.319220e-17
Cc0 EN i1_A 1.086700e-16
Rn1_1 i1_Y i2_A 22.1045
Cg2 i2_A 0 1.605480e-16
Cg3 i1_Y 0 1.605480e-16
Cc1 i2_A i25_A 7.189820e-17
Cc2 EN i2_A 1.707130e-16
Rn10_2 i10_Y i11_A 21.1089
Cg4 i11_A 0 5.019180e-17
Cg5 i10_Y 0 5.019180e-17
Cx0 i11_A 0 9.772740e-17
Cc3 i11_A i10_A 5.476610e-17
Cc4 i11_A i12_A 6.869790e-17
Cx1 i11_A 0 7.058730e-17
Rn11_3 i11_Y i12_A 21.5420
Cg6 i12_A 0 6.611310e-17
Cg7 i11_Y 0 6.611310e-17
Cx2 i12_A 0 1.437130e-16
Cc5 i12_A i13_A 2.629080e-17
Cx3 i12_A 0 8.181280e-17
Rn12_4 i12_Y i13_A 21.8857
Cg8 i13_A 0 7.866720e-17
Cg9 i12_Y 0 7.866720e-17
Cx4 i13_A 0 2.762110e-16
Cc6 i13_A i14_A 2.559600e-17
Cx5 i13_A 0 5.201240e-17
Rn13_5 i13_Y i14_A 22.5420
Cg10 i14_A 0 8.519480e-17
Cg11 i13_Y 0 8.519480e-17
Cx6 i14_A 0 8.273930e-17
Cc7 i14_A i15_A 5.476610e-17
Cx7 i14_A 0 3.521090e-16
Rn14_6 i14_Y i15_A 20.8277
Cg12 i15_A 0 5.749930e-17
Cg13 i14_Y 0 5.749930e-17
Cx8 i15_A 0 8.029520e-17
Cx9 i15_A 0 1.156460e-16
Rn15_7 i15_Y s1623_6 10.4518
Rn15_8 s1623_6 buf_A 12.2107
Rn15_9 s1623_6 i16_A 20.2241
Cg14 i16_A 0 1.009500e-16
Cg15 buf_A 0 1.908150e-16
Cg16 i15_Y 0 7.694910e-17
Cg17 s1623_6 0 3.687140e-16
Cx10 i16_A 0 0.000000e+00
Cx11 i16_A 0 4.033180e-17
Cx12 i16_A 0 2.808530e-17
Cx13 buf_A 0 1.005100e-16
Cx14 s1623_6 0 1.090830e-16
Rn16_10 i16_Y i17_A 19.4973
Cg18 i17_A 0 3.887540e-17
Cg19 i16_Y 0 3.887540e-17
Cx15 i17_A 0 9.277880e-17
Rn17_11 i17_Y i18_A 19.9080
Cg20 i18_A 0 5.278350e-17
Cg21 i17_Y 0 5.278350e-17
Cx16 i18_A 0 1.365920e-16
Rn18_12 i18_Y i19_A 19.4973
Cg22 i19_A 0 3.038620e-17
Cg23 i18_Y 0 3.038620e-17
Cx17 i19_A 0 9.572150e-17
Rn19_13 i19_Y i20_A 19.4973
Cg24 i20_A 0 3.038620e-17
Cg25 i19_Y 0 3.038620e-17
Cx18 i20_A 0 9.572150e-17
Rn2_14 i2_Y i3_A 29.8098
Cg26 i3_A 0 1.507400e-16
Cg27 i2_Y 0 1.507400e-16
Cc8 i25_A i3_A 0.000000e+00
Cc9 EN i3_A 1.057290e-17
Rn20_15 i20_Y i21_A 19.4973
Cg28 i21_A 0 1.450790e-17
Cg29 i20_Y 0 1.450790e-17
Cc10 i21_A i22_A 3.809220e-17
Cx19 i21_A 0 9.572150e-17
Rn21_16 i21_Y i22_A 31.3902
Cg30 i22_A 0 2.461190e-16
Cg31 i21_Y 0 2.461190e-16
Cx20 i22_A 0 0.000000e+00
Cx21 i22_A 0 2.146770e-17
Rn22_17 i22_Y i23_A 19.4973
Cg32 i23_A 0 5.339630e-17
Cg33 i22_Y 0 5.339630e-17
Rn23_18 i23_Y i24_A 19.4973
Cg34 i24_A 0 5.339630e-17
Cg35 i23_Y 0 5.339630e-17
Rn24_19 i24_Y i25_A 30.2652
Cg36 i25_A 0 1.598160e-16
Cg37 i24_Y 0 1.598160e-16
Cc11 i25_A nand_B 0.000000e+00
Cc12 EN i25_A 7.189820e-17
Rn25_20 i25_Y i26_A 31.8009
Cg38 i26_A 0 2.766280e-16
Cg39 i25_Y 0 2.766280e-16
Cc13 i26_A i27_A 2.808530e-17
Cc14 EN i26_A 1.173790e-16
Cx22 i26_A 0 0.000000e+00
Cx23 i26_A 0 2.808530e-17
Rn26_21 i26_Y i27_A 20.8277
Cg40 i27_A 0 7.737850e-17
Cg41 i26_Y 0 7.737850e-17
Cc15 i27_A i28_A 4.250580e-17
Cx24 i27_A 0 1.158160e-16
Rn27_22 i27_Y i28_A 21.1313
Cg42 i28_A 0 9.330810e-17
Cg43 i27_Y 0 9.330810e-17
Cc16 i28_A i29_A 2.629080e-17
Cc17 i28_A i30_A 0.000000e+00
Cx25 i28_A 0 1.070680e-16
Rn28_23 i28_Y i29_A 20.9705
Cg44 i29_A 0 9.061720e-17
Cg45 i28_Y 0 9.061720e-17
Cc18 i29_A i30_A 8.253620e-17
Cx26 i29_A 0 5.230570e-17
Rn29_24 i29_Y i30_A 21.8455
Cg46 i30_A 0 1.458000e-16
Cg47 i29_Y 0 1.458000e-16
Cc19 i30_A nand_B 1.876180e-17
Cx27 i30_A 0 1.317400e-16
Rn3_25 i3_Y i4_A 20.7652
Cg48 i4_A 0 1.216650e-16
Cg49 i3_Y 0 1.216650e-16
Rn30_26 i30_Y nand_B 31.1089
Cg50 nand_B 0 2.339650e-16
Cg51 i30_Y 0 2.339650e-16
Cx28 nand_B 0 0.000000e+00
Cx29 nand_B 0 7.410450e-17
Rn4_27 i4_Y i5_A 20.3188
Cg52 i5_A 0 1.022770e-16
Cg53 i4_Y 0 1.022770e-16
Rn5_28 i5_Y i6_A 19.4973
Cg54 i6_A 0 4.693320e-17
Cg55 i5_Y 0 4.693320e-17
Cc20 i6_A i7_A 2.592350e-17
Rn6_29 i6_Y i7_A 30.9348
Cg56 i7_A 0 2.422360e-16
Cg57 i6_Y 0 2.422360e-16
Cc21 i7_A i8_A 1.145480e-17
Cx30 i7_A 0 2.524000e-17
Rn7_30 i7_Y i8_A 21.1313
Cg58 i8_A 0 1.185450e-16
Cg59 i7_Y 0 1.185450e-16
Cx31 i8_A 0 1.025970e-16
Rn8_31 i8_Y i9_A 31.0420
Cg60 i9_A 0 2.217810e-16
Cg61 i8_Y 0 2.217810e-16
Cc22 i9_A i10_A 1.407490e-17
Cx32 i9_A 0 1.647620e-16
Cx33 i9_A 0 2.354100e-17
Rn9_32 i9_Y i10_A 22.4348
Cg62 i10_A 0 8.418290e-17
Cg63 i9_Y 0 8.418290e-17
Cx34 i10_A 0 2.049610e-16
Cx35 i10_A 0 2.152770e-16
Cg64 buf_X 0 1.806160e-15
Cx36 i10_A 0 2.049610e-16
Cx37 i11_A 0 9.772740e-17
Cx38 i12_A 0 1.437130e-16
Cx39 i13_A 0 2.762110e-16
Cx40 i14_A 0 8.273930e-17
Cx41 i15_A 0 8.029520e-17

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
